US08106190B2
4-Cyano-2-(cyclohexylamino)-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)benzamide (500 mg), di-tert-butyl dicarbonate (Boc2O, 406 mg) and 10% palladium-carbon (200 mg) were added to a mixed solution of tert-butanol (40 mL) and DMF (20 mL) and stirred at room temperature for 15 hours under an atmosphere of hydrogen (1 atm). The reaction liquid was filtered and the filtrate was concentrated under a reduced pressure. By purifying the residue by silica gel column chromatography (hexane:ethyl acetate, 8:1 to 4:6), tert-butyl {3-(cyclohexylamino)-4-[(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)carbamoyl]benzyl}carbamate (453 mg) was obtained as a solid.

reactant | 4-Cyano-2-(cyclohexylamino)-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)benzamide | 500 mg | C(#N)C1=CC(=C(C(=O)NC2=CC=C3CCC(N(C3=C2)C)=O)C=C1)NC1CCCCC1 | C24H26N4O2
reactant | di-tert-butyl dicarbonate | 406 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tert-butanol | 40 mL | C(C)(C)(C)O | C4H10O
catalyst | palladium-carbon | 200 mg | [C].[Pd]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-butyl {3-(cyclohexylamino)-4-[(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)carbamoyl]benzyl}carbamate | 453 mg | C1(CCCCC1)NC=1C=C(CNC(OC(C)(C)C)=O)C=CC1C(NC1=CC=C2CCC(N(C2=C1)C)=O)=O | C29H38N4O4
